US05789634
A 12 L round-bottom flask was equipped with a mechanical stirrer, thermometer and reflux condenser. 385 g sodium butanoate (3.5 mol) and 2 L THF were added to form a slurry. 2.625 L lithium diisopropylamide, 2M in heptane/THF/ethylbenzene (5.25 mol, 50% excess) were added at ambient temperature, and then stirred for 24 hours. Then 705 g 2-chlorobenzyl chloride (4.375 mol, 25% excess) was added, and the reaction stirred for another 24 hours. Once completed, the reaction was quenched by adding 1500 mL H2O, and the solution allowed to separate. The aqueous layer, pH=13, was separated and neutralized by addition of 12N HCl to obtain pH=7.0, at which point a phase separation occurs. 2-(2-chlorobenzyl) butanoic acid was concentrated in the organic layer. Synthesis of 2-ethyl-7-chloroindene was completed by the same sequence of reactions and method as described in Example 1, beginning with the addition of SOCl2. See FIGS. 1 and 3. The product, 2-ethyl-7-chloroindene, was obtained by distillation at 110°-114° C. under 1-3 mm Hg. Yield was 205 g (33% overall) of a clear, colorless oil.

reactant | sodium butanoate | 3.5 mol, 385 g | C(CCC)(=O)[O-].[Na+]
reactant | lithium diisopropylamide | 2.625 L | C(C)(C)[N-]C(C)C.[Li+]
reactant | heptane THF ethylbenzene | 5.25 mol | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
reactant | 2-chlorobenzyl chloride | 4.375 mol, 705 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
solvent | THF | 2 L | C1CCOC1 | C4H8O
product | 2-ethyl-7-chloroindene | C(C)C=1CC2=C(C=CC=C2C1)Cl | C11H11Cl
